US05025025
To a solution of 0.879 g (7 mmol) of 4-ethenyltetrahydro-2H-pyran-2-one in 5 mL triethylamine and 5 mL acetonitrile is added 0.081 g (0.36 mmol) Palladium-(II)-acetate followed by 0.659 g (2.5 mmol) tri-o-tolylphosphine and 0.76 mL (7.9 mmol) 3-bromopyridine and the mixture is heated at 125° C. for 20 hours in a sealed tube. It is then cooled, diluted with methylene chloride and washed with water. The organic phase is dried (MgSO4), filtered and evaporated to give a reddish oil which is flash chromatographed using ethyl acetate as eluent to obtain 4-[2-(3-pyridyl)ethenyl]tetrahydro-2H-pyran-2-one as an oil.

reactant | 4-ethenyltetrahydro-2H-pyran-2-one | 7 mmol, 0.879 g | C(=C)C1CC(OCC1)=O | C7H10O2
reactant | tri-o-tolylphosphine | 2.5 mmol, 0.659 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | 3-bromopyridine | 7.9 mmol, 0.76 mL | BrC=1C=NC=CC1 | C5H4BrN
solvent | triethylamine | 5 mL | C(C)N(CC)CC | C6H15N
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
catalyst | Palladium-(II)-acetate | 0.36 mmol, 0.081 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | 4-[2-(3-pyridyl)ethenyl]tetrahydro-2H-pyran-2-one | N1=CC(=CC=C1)C=CC1CC(OCC1)=O | C12H13NO2
